US07473698B2
Into a solution of tert-butyl 4-(4-fluoro-3-{[5-(2-methoxyphenyl)pentanoyl]amino}phenyl)-1-piperidinecarboxylate (48.4 mg, 0.100 mmol) in CH2Cl2 (2.0 mL) was added trifluoroacetic acid (114 mg, 1.0 mmol) at room temperature. The reaction mixture was stirred for 30 min and concentrated in vacuo. The residue was dissolved in CHCl3/i-PrOH (3:1, 10 mL) and was basified to pH 11 with 5% KOH solution. The organic layer was separated and the aqueous layer was extracted with CHCl3/i-PrOH (3:1, 3×10 mL). The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated in vacuo to afford afford N-[2-fluoro-5-(4-piperidinyl)phenyl]-5-(2-methoxyphenyl)pentanamide (38.0 mg, 95%): 1H NMR (400 MHz, CD3OD) δ 8.30-8.12 (m, 1H), 7.64-7.41 (m, 1H), 7.24-7.07 (m, 2H), 7.06-6.92 (m, 1H), 6.92-6.74 (m, 3H), 3.80 (s, 3H), 3.25-3.06 (m, 2H), 2.80-2.49 (m, 5H), 2.48-2.24 (m, 3H), 1.89-1.71 (m, 4H), 1.71-1.46 (m, 4H); ESMS m/e: 385.2 (M+H)+.

reactant | tert-butyl 4-(4-fluoro-3-{[5-(2-methoxyphenyl)pentanoyl]amino}phenyl)-1-piperidinecarboxylate | 0.100 mmol, 48.4 mg | FC1=C(C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)NC(CCCCC1=C(C=CC=C1)OC)=O | C28H37FN2O4
reactant | trifluoroacetic acid | 1.0 mmol, 114 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
product | N-[2-fluoro-5-(4-piperidinyl)phenyl]-5-(2-methoxyphenyl)pentanamide | 38.0 mg, 95% | FC1=C(C=C(C=C1)C1CCNCC1)NC(CCCCC1=C(C=CC=C1)OC)=O | C23H29FN2O2
